US07812028B2
b) 5-Bromo-6-cyclopropylmethoxy-2-methyl-nicotinic Acid
Sodium hydroxide solution (1 N, 3.6 mL) was added to a solution of 5-bromo-6-cyclopropylmethoxy-2-methyl-nicotinic acid ethyl ester (0.58 g, 1.8 mmol) in THF (5.3 mL). The mixture was heated for 5 h to 70° C., cooled and neutralized with hydrochloric acid (1 N, 1.8 mL). After addition of citric acid the product precipitated and was purified by chromatography on silica gel with a dichloromethane:methanol gradient to yield the title compound as colorless solid, MS (ISP) 284.1 (M−H)+.

reactant | Sodium hydroxide | 1 N, 3.6 mL | [OH-].[Na+]
reactant | 5-bromo-6-cyclopropylmethoxy-2-methyl-nicotinic acid ethyl ester | 1.8 mmol, 0.58 g | C(C)OC(C1=C(N=C(C(=C1)Br)OCC1CC1)C)=O | C13H16BrNO3
reactant | hydrochloric acid | 1 N, 1.8 mL | Cl | ClH
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 5.3 mL | C1CCOC1 | C4H8O
product | 5-Bromo-6-cyclopropylmethoxy-2-methyl-nicotinic Acid | BrC=1C(=NC(=C(C(=O)O)C1)C)OCC1CC1 | C11H12BrNO3
